US04686230
6.3 g of 4,5-dimethoxy-2,3-dimethylpyridine are dissolved in 120 ml of methylene chloride, 20 g of m-chloroperoxybenzoic acid are added successively and the mixture is stirred first at 20° C. for 2 hours and then at 40° C. for 4 hours. After addition of 20 ml of 5N sodium hydroxide solution, the mixture is washed three times with a mixture of 5% strength sodium thiosulphate solution and 5% strength sodium carbonate solution, the aqueous phases are back-extracted twice with methylene chloride and the combined organic phases are dried over magnesium sulphate and concentrated. 4.6 g (66% of theory) of 4,5-dimethoxy-2,3-dimethylpyridine 1-oxide are obtained. The Rf value in methylene chloride/methanol 19:1 is 0.25.

reactant | 4,5-dimethoxy-2,3-dimethylpyridine | 6.3 g | COC1=C(C(=NC=C1OC)C)C | C9H13NO2
reactant | m-chloroperoxybenzoic acid | 20 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium hydroxide | 5N, 20 ml | [OH-].[Na+]
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 4,5-dimethoxy-2,3-dimethylpyridine 1-oxide | 4.6 g, 66% | COC1=C(C(=[N+](C=C1OC)[O-])C)C | C9H13NO3
